US04203988
B. N-(6-Dimethylamino-2-pyridyl)acetamide
Acetylation of 2-amino-6-dimethylaminopyridine from Part A with acetic anhydride in benzene for 2 hours at reflux gives a quantative yield of the title compound. Melting point is 118°-119°.

reactant | 2-amino-6-dimethylaminopyridine | NC1=NC(=CC=C1)N(C)C | C7H11N3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(6-Dimethylamino-2-pyridyl)acetamide | CN(C1=CC=CC(=N1)NC(C)=O)C | C9H13N3O
